US04051254
3-methyl-4-(3-chloropropionamido)phenyl N-methylcarbamate
According to the general directions described in Example 5, 3-methyl-4-aminophenyl N-methylcarbamate (1.8g., 0.01 mole) was reacted with 3-chloropropionyl chloride (1.52 g., 0.012 mole). The product weighed 2.0g. after recrystallization from ethanol-water and its infrared spectrum showed a double carbonyl absorption at about 5.8 μ and 6.0 μ.

reactant | 3-methyl-4-aminophenyl N-methylcarbamate | 0.01 mole, 1.8g | CNC(OC1=CC(=C(C=C1)N)C)=O | C9H12N2O2
reactant | 3-chloropropionyl chloride | 0.012 mole, 1.52 g | ClCCC(=O)Cl | C3H4Cl2O
product | 3-methyl-4-(3-chloropropionamido)phenyl N-methylcarbamate | CNC(OC1=CC(=C(C=C1)NC(CCCl)=O)C)=O | C12H15ClN2O3
